US06884868B1
A mixture of 1-acetyl-4-[4-(4-methoxy-4-phenylpiperidin-1-yl)phenyl]piperazine (2.5 g) and 10% NaOH aq. (10.2 ml) in ethyl alcohol (50 ml) was refluxed for 23.5 hours. The reaction mixture was evaporated under reduced pressure. The residue was washed with water, and dried to give 1-[4-(4-methoxy-4-phenylpiperidin-1-yl)phenyl]piperazine (2.18 g).

reactant | 1-acetyl-4-[4-(4-methoxy-4-phenylpiperidin-1-yl)phenyl]piperazine | 2.5 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)(C1=CC=CC=C1)OC | C24H31N3O2
reactant | NaOH | 10.2 ml | [OH-].[Na+]
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | 1-[4-(4-methoxy-4-phenylpiperidin-1-yl)phenyl]piperazine | 2.18 g | COC1(CCN(CC1)C1=CC=C(C=C1)N1CCNCC1)C1=CC=CC=C1 | C22H29N3O
